US08420690B2
a) 5-bromo-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-3-furancarboxamide
To a solution of 5-bromo-3-furancarboxylic acid (0.30 g, 1.57 mmol) [prepared according to J. Org. Chem. 1976, 41, 2350.], 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione (0.60 g, 1.73 mmol) [from Preparation 5] and diisopropylethyl amine (0.82 mL, 4.7 mmol) in DCM (50 mL) at 25° C. was added PyBrOP (1.09 g, 2.36 mmol) in one portion. After 16 h, the solution was partitioned between H2O and washed with DCM. The combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica, hexanes/EtOAc, 1:1) affording the title compound (0.45 g, 55%) as a white solid: LC-MS (ES) m/z=521 (WH)+.

reactant | 5-bromo-3-furancarboxylic acid | 1.57 mmol, 0.30 g | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
reactant | 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione | 1.73 mmol, 0.60 g | N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F | C18H15F3N2O2
reactant | diisopropylethyl amine | 4.7 mmol, 0.82 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBrOP | 2.36 mmol, 1.09 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-3-furancarboxamide | 0.45 g, 55% | BrC1=CC(=CO1)C(=O)N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F | C23H16BrF3N2O4
